US05292760
2,2-Dimethyl-N-[2-[2-methylamino-2-(3-methyl-2-thienyl)ethyl]-4-trifluoromethylphenyl]propanamide
To a chilled (10° C.) solution of 12.81 g of 2,2-dimethyl-N-(2-methyl-4-trifluoromethylphenyl)propanamide and 200 ml of anhydrous tetrahydrofuran, was added dropwise over 20 min, 48 ml of a 2.5M solution of n-butyllithium in hexanes, with stirring. The solution was stirred, with cooling, for 1 hr, and 10.65 g of an 85% solution of 3-methyl-2-thiophenecarboxaldehyde methylimine in toluene, and 20 ml of tetrahydrofuran was added, dropwise over 10 min, with stirring. After stirring and cooling for 1.5 hr, 60 ml of water was added, and the mixture was evaporated. The residue was diluted with water and extracted with dichloromethane. The combined, organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was separated by HPLC (Waters Associates Prep LC/System 500, silica gel, 200 ml/min flow rate; the residue was dissolved in sufficient ethyl acetate-hexane (1:1) to give 50 ml of solution, and the solution was applied in 25 ml portions to the columns, Gow Mac UV detector). The appropriate fractions were combined and concentrated. The residue was purified again by preparative HPLC under similar conditions, and finally, using a single recycle (elution with ethyl acetate-hexane (1:1)) to afford 9.53 g of product, mp 64°-69° C.

reactant | 2,2-dimethyl-N-(2-methyl-4-trifluoromethylphenyl)propanamide | 12.81 g | CC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)C)(C)C | C13H16F3NO
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-methyl-2-thiophenecarboxaldehyde methylimine | CN=CC=1SC=CC1C | C7H9NS
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 ml | O | H2O
product | 2,2-Dimethyl-N-[2-[2-methylamino-2-(3-methyl-2-thienyl)ethyl]-4-trifluoromethylphenyl]propanamide | 50 ml | CC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)CC(C=1SC=CC1C)NC)(C)C | C20H25F3N2OS
